US09056844B2
Preparation 18: Diethyl (1S,2R,3R,4S,5R,6S)-4-[(2-acetoxyacetyl)amino]-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate
Add acetoxyacetyl chloride (0.116 mL, 1.08 mmol) to a solution of diethyl (1S,2R,3R,4S,5R,6S)-4-amino-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (0.47 g, 0.89 mmol) and diisoproylethylamine (0.32 mL, 1.83 mmol) in dichloromethane (9 mL) at room temperature. After 2.5 hours, wash the solution with saturated NaHCO3 (2×), brine (1×), dry over MgSO4, filter, and conc. under reduced pressure. Purify by flash chromatography eluting with a gradient of 0 to 100% ethyl acetate in hexanes over 30 min. to yield the title compound as a white solid (0.43 g, 0.68 mmol, 76%). MS (m/z): 531 (M+H-BOC).

reactant | acetoxyacetyl chloride | 1.08 mmol, 0.116 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | diethyl (1S,2R,3R,4S,5R,6S)-4-amino-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 0.89 mmol, 0.47 g | N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OCC)(C(=O)OCC)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C24H32Cl2N2O7
reactant | diisoproylethylamine | 1.83 mmol, 0.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | Diethyl (1S,2R,3R,4S,5R,6S)-4-[(2-acetoxyacetyl)amino]-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 0.68 mmol, 0.43 g, 76% | C(C)(=O)OCC(=O)N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OCC)(C(=O)OCC)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H36Cl2N2O10
